US05959107
4-(5-Isoquinolylsulfanyl)-1,2-benzenediamine 200 mg (0.7 mmol) was dissolved in water 10 ml, a water solution 6 ml of glyoxal-sodium bisulfite hydrate 580 mg (2.3 mmol) was added, and the mixture was stirred for 1 hour at 80° C. Potassium carbonate was added to the reaction solution to alkalize the solution, and the solution was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:acetone=1:10), and 6-(5-isoquinolylsulfanyl)quinoxaline 90 mg (41.2%) was obtained.

reactant | 4-(5-Isoquinolylsulfanyl)-1,2-benzenediamine | 0.7 mmol, 200 mg | C1=NC=CC2=C(C=CC=C12)SC=1C=C(C(=CC1)N)N | C15H13N3S
reactant | glyoxal-sodium bisulfite hydrate | 2.3 mmol, 580 mg | O.S([O-])(O)=O.[Na+].C(=O)C=O
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 6-(5-isoquinolylsulfanyl)quinoxaline | 90 mg, 41.2% | C1=NC=CC2=C(C=CC=C12)SC=1C=C2N=CC=NC2=CC1 | C17H11N3S
